US08349880B2
Step AP (1): 2-(3-Chlorophenyl)acetic acid (5 g, 29.3 mmol) was deprotonated with NaHMDS (2.0 M in THF, 29.3 mL, 58.6 mmol) and reacted with 1-chloro-4-iodobutane (3.59 mL, 29.3 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-(3-chlorophenyl)hexanoic acid (7.47 g, 98% yield). LC-MS (M−H)− 259.1. The crude product was used for subsequent chemistry without purification.

reactant | 2-(3-Chlorophenyl)acetic acid | 29.3 mmol, 5 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | NaHMDS | 58.6 mmol, 2.0 M, 29.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-4-iodobutane | 29.3 mmol, 3.59 mL | ClCCCCI | C4H8ClI
product | 6-chloro-2-(3-chlorophenyl)hexanoic acid | 7.47 g, 98% yield | ClCCCCC(C(=O)O)C1=CC(=CC=C1)Cl | C12H14Cl2O2
